US08247556B2
N-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide
The titled compound was prepared from N-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-2-fluoro-nicotinamide and C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride by the method described in Step A of Example 1. MS (ES+): 441 (M+H). Calc'd. for C25H24N6O2—440.51.

reactant | N-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-2-fluoro-nicotinamide | CC1(CC(NC2=CC(=CC=C12)NC(C1=C(N=CC=C1)F)=O)=O)C | C17H16FN3O2
reactant | C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1C=CC=2C1=NC=CC2CN
product | N-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide | CC1(CC(NC2=CC(=CC=C12)NC(C1=C(N=CC=C1)NCC1=C2C(=NC=C1)NC=C2)=O)=O)C | C25H24N6O2
